US08034811B2
2-Methyl-6-[(pyridin-4-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from 2-amino-6-methylbenzoic acid (Fluka) and pyridine-4-carbaldehyde. 13C-NMR (DMSO-d6) δ 170.4, 149.5, 149.3, 147.8, 138.5, 131.2, 121.9, 118.7, 115.8, 109.1, 45.1, 22.1.

reactant | 2-amino-6-methylbenzoic acid | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | pyridine-4-carbaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 2-Methyl-6-[(pyridin-4-ylmethyl)-amino]-benzoic acid | CC1=C(C(=O)O)C(=CC=C1)NCC1=CC=NC=C1 | C14H14N2O2
